US06489344B1
1 mmol of 2-(2,4-dichlorophenyl)-6-chloro-3-nitropyridine was taken with 2 mmol of (2-aminoethyl)(6-amino-5-nitro(2-pyridyl))amine and 3 mmol of N,N-diisopropylethylamine in 2 ml of DMF at 80° C. for two hours. The reaction mixture was concentrated in vacuo and diluted with water and ethyl acetate. The solution was extracted three times with ethyl acetate, dried over sodium sulfate, and purified by column chromatography eluting with 5-10% methanol/methylene chloride to obtain {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-nitro(2-pyridyl)]amine.

reactant | 2-(2,4-dichlorophenyl)-6-chloro-3-nitropyridine | 1 mmol | ClC1=C(C=CC(=C1)Cl)C1=NC(=CC=C1[N+](=O)[O-])Cl | C11H5Cl3N2O2
reactant | (2-aminoethyl)(6-amino-5-nitro(2-pyridyl))amine | 2 mmol | NCCNC1=NC(=C(C=C1)[N+](=O)[O-])N | C7H11N5O2
reactant | N,N-diisopropylethylamine | 3 mmol | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | {2-[(6-amino-5-nitro(2-pyridyl))amino]ethyl}[6-(2,4-dichlorophenyl)-5-nitro(2-pyridyl)]amine | NC1=C(C=CC(=N1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])C1=C(C=C(C=C1)Cl)Cl)[N+](=O)[O-] | C18H15Cl2N7O4
